US09145355B2
N-((1R,2S)-1-(3′-(1-aminocyclopropyl)-[1,1′-biphenyl]-4-yl)-3-fluoro-1-hydroxypropan-2-yl)-2,2-dichloroacetamide
A mixture of tert-butyl (1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropyl)carbamate (241 mg, 0.672 mmol), 2,2-dichloro-1-((4S,5R)-4-(fluoromethyl)-5-(4-iodophenyl)-2,2-dimethyloxazolidin-3-yl)ethanone (250 mg, 0.56 mmol), Cs2CO3 (365 mg, 1.12 mmol) in dioxane (4 mL) and water (1 mL) is bubbled with nitrogen gas for 2 minutes. Pd(PPh3)4 (64 mg, 0.056 mmol) is added and the resulting reaction mixture heated at 80° C. for 4 hours. Reaction is diluted with water (10 ml) and extracted with ethyl acetate (3×10 mL). Combined organic solution is dried over Na2SO4 and concentrated. Crude compound dissolved in DCM (3 mL) and stirred with TFA (0.6 mL) at room temperature for 1 hour. Reaction is diluted with toluene (10 mL) and concentrated. Crude compound is basified slowly using saturated aq. NaHCO3, extracted with ethyl acetate (3×30 mL) and combined extracts dried over Na2SO4 and concentrated. Solid dissolved in DMF (2 mL) and purified using HPLC eluting from 5 to 95% water/acetonitrile to give the title compound (50 mg): 1 HNMR (400 MHz, MeOH-d4) δ: 1.33-1.39 (m, 2H), 1.40-1.47 (m, 2H), 4.33-4.42 (m, 1.5H), 4.44-4.51 (m, 0.5H) 4.56-4.63 (m, 0.5H), 4.68-4.75 (m, 0.5H), 5.03 (d, 1H, J=4 Hz), 6.31 (s, 1H), 7.44-7.48 (m, 1H), 7.50-5.55 9 m, 3H), 7.63-7.68 (m, 3H), 7.75-7.78 (m, 1H), m/z (Cl) 411 [M+1].

reactant | tert-butyl (1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropyl)carbamate | 0.672 mmol, 241 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C1(CC1)NC(OC(C)(C)C)=O)C | C20H30BNO4
reactant | 2,2-dichloro-1-((4S,5R)-4-(fluoromethyl)-5-(4-iodophenyl)-2,2-dimethyloxazolidin-3-yl)ethanone | 0.56 mmol, 250 mg | ClC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)I)(C)C)Cl | C14H15Cl2FINO2
reactant | Cs2CO3 | 1.12 mmol, 365 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | water | 10 ml | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.056 mmol, 64 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-((1R,2S)-1-(3′-(1-aminocyclopropyl)-[1,1′-biphenyl]-4-yl)-3-fluoro-1-hydroxypropan-2-yl)-2,2-dichloroacetamide | 50 mg | NC1(CC1)C=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]([C@@H](CF)NC(C(Cl)Cl)=O)O | C20H21Cl2FN2O2
